US04399264
(b) 4,4,5,5-Tetrachloro-2,2-difluoro-1,3-dioxolane (4)
A 360 mL "Hastelloy" C shaker tube was charged with 113 g (0.5 mole) of tetrachloroethylene carbonate, sealed under nitrogen, cooled in a dry ice acetone mixture, evacuated, flushed with nitrogen, reevacuated and charged with 18 g (0.9 mole) of hydrogen fluoride and 194 g (1.8 mole) of sulfur tetrafluoride. The tube was agitated for 10 hours at 200° C. The tube was next chilled in an ice-water bath and then slowly vented to remove the excess SF4 and HF. The product was dumped from the tube into wet ice and allowed to stand a day. The organic phase was separated from the aqueous phase in a polyethylene separatory funnel, then stirred with a 30% aqueous solution of potassium carbonate to neutralize free acid. The product was dried over potassium carbonate and distilled at a reduced pressure. It boils at 126° C. at atmospheric pressure. The best yield of 4,4,5,5-tetrachloro-2,2,-difluoro-1,3-dioxolane was 73%. Infrared and nuclear magnetic resonance (NMR) spectra support the chemical structure (4) of this dioxolane.

reactant | tetrachloroethylene carbonate | 0.5 mole, 113 g | C1(OC(C(Cl)(Cl)O1)(Cl)Cl)=O | C3Cl4O3
reactant | hydrogen fluoride | 0.9 mole, 18 g | F | FH
reactant | sulfur tetrafluoride | 1.8 mole, 194 g | S(F)(F)(F)F | F4S
product | 4,4,5,5-Tetrachloro-2,2-difluoro-1,3-dioxolane | ClC1(OC(OC1(Cl)Cl)(F)F)Cl | C3Cl4F2O2
